US09278922B2
(2S,4S)-1-(tert-butoxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid
To a solution of (2S,4S)-4-hydroxypyrrolidine-2-carboxylic acid (3.9 g, 29.7 mmol) in THF (26.7 mL) and water (13.3 mL) was added di-tert-butyl dicarbonate (7.14 g, 32.7 mmol) and sodium hydroxide (2.0 N, 22.9 mL, 45.8 mmol) and the mixture stirred at room temperature overnight. The mixture then had 10% citric acid (50 mL) added followed by EtOAc and extraction with water and brine. The organic extract was dried, filtered and concentrated to afford 5.31 g (77%) of the title compound. MS (ESI) m/z 232 (M+H)+.

reactant | (2S,4S)-4-hydroxypyrrolidine-2-carboxylic acid | 29.7 mmol, 3.9 g | O[C@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | di-tert-butyl dicarbonate | 32.7 mmol, 7.14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 45.8 mmol, 2.0 N, 22.9 mL | [OH-].[Na+]
reactant | citric acid | 50 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 26.7 mL | C1CCOC1 | C4H8O
solvent | water | 13.3 mL | O | H2O
product | (2S,4S)-1-(tert-butoxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid | 5.31 g, 77% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)O)C(=O)O | C10H17NO5
